US06552036B2
A 1.5 g (0.0034 mole) sample of 4-[(8-phenethyl-8-azabicyclo[3.2.1]oct-3-ylidene)phenylmethyl]benzoyl chloride was cooled in an ice bath. 30 mL of NH4OH was added dropwise. The ice bath was removed and the mixture was stirred at room temperature for 2 h. The solid was filtered off and dried. The product was passed through a Biotage Flash 40 L (silica gel, 9:1; CH2Cl2:MeOH). Conversion to the HCl salt and recrystallization from EtOH/Et2O gave 0.45 g of 4-[(8-phenethyl-8-azabicyclo[3.2.1]oct-3-ylidene)phenylmethyl]benzamide; mp. 210-212° C. MS m/z (MH+) 423. 1H NMR (DMSO-d6) δ 7.95 (s, 1H); 7.9 (d, 2H); 7.4-7.2 (ar, 12H); 4.05 (bs, 1H); 3.6 (q, 2H); 2.9 (d, 2H); 2.4-2.1 (m, 5H); 1.8 (m, 3H); 1.1 (t, 3H).

reactant | 4-[(8-phenethyl-8-azabicyclo[3.2.1]oct-3-ylidene)phenylmethyl]benzoyl chloride | C(CC1=CC=CC=C1)N1C2CC(CC1CC2)=C(C2=CC=C(C(=O)Cl)C=C2)C2=CC=CC=C2 | C29H28ClNO
reactant | NH4OH | 30 mL | [NH4+].[OH-]
product | 4-[(8-phenethyl-8-azabicyclo[3.2.1]oct-3-ylidene)phenylmethyl]benzamide | 0.45 g | C(CC1=CC=CC=C1)N1C2CC(CC1CC2)=C(C2=CC=C(C(=O)N)C=C2)C2=CC=CC=C2 | C29H30N2O
